US04654336
4-(2,5-Difluorobenzoyl)-4-hydroxypiperidine
A suspension of 5.66 g of 1-acetyl-4-(2,5-difluorobenzoyl)-4-hydroxypiperidine in 10 ml of 6N hydrochloric acid was stirred at reflux, under nitrogen for 3.5 hrs. The reaction mixture was allowed to cool to 0° C. whereupon a solid separated. The solid was collected, washed with ice-cold acetone and dried to give 4.4 g (80%) of product, mp 191°-193° C.

reactant | 1-acetyl-4-(2,5-difluorobenzoyl)-4-hydroxypiperidine | 5.66 g | C(C)(=O)N1CCC(CC1)(O)C(C1=C(C=CC(=C1)F)F)=O | C14H15F2NO3
solvent | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 4-(2,5-Difluorobenzoyl)-4-hydroxypiperidine | 4.4 g, 80% | FC1=C(C(=O)C2(CCNCC2)O)C=C(C=C1)F | C12H13F2NO2
